US05972929
(1) 2-Heptadecyl-8-methoxy-4H-3,1-benzoxazine-4-one
Triethylamine (5.30 ml) was added to a suspension of 2-amino-3-methoxybenzoic acid (3.00 g) in methylene chloride (30 ml). The mixture was cooled with ice and stearoyl chloride (5.44 g) was dropwise added thereto. The reaction mixture was stirred for 2.5 hours at room temperature and then cooled with ice. Then, triethylamine (2.80 ml) and ethyl chlorocarbonate (1.88 ml) were added to the reaction mixture successively. The reaction mixture was stirred for 1 hour at 0° C. and for 3 hours at room temperature successively, and then concentrated. The residue, with chloroform added thereto, was washed with water and saturated brine successively. The organic layer was dried over sodium sulfate anhydride and then concentrated. The residue was purified by silica gel column chromatography (silica gel 150 g, chloroform-hexane), thereby yielding 3.73 g of the aimed compound as colorless solid.

reactant | Triethylamine | 5.30 ml | C(C)N(CC)CC | C6H15N
reactant | 2-amino-3-methoxybenzoic acid | 3.00 g | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
reactant | stearoyl chloride | 5.44 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.88 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Heptadecyl-8-methoxy-4H-3,1-benzoxazine-4-one | 3.73 g | C(CCCCCCCCCCCCCCCC)C1=NC2=C(C(O1)=O)C=CC=C2OC | C26H41NO3
